US06894200B2
Synthesis of 6-bromo-1,2-difluoronaphthalene
A cold solution (0° C. bath temperature) of 240.1 g of NH4Cl in 1,080 ml of NH4OH was added to a stirred mixture of 82.7 g (1.3 mol) of zinc, 236.2 g (0.8 mol) of 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene, and 540 ml of THF that was cooled to 3° C. in an ice bath. The mixture was allowed to warm slowly to room temperature. After 7 hours reaction time, the zinc was removed by filtration. The phases were separated, and the aqueous layer was extracted three times with hexanes. The combined organic phase was washed twice with brine and stirred over MgSO4 and activated carbon for 3 h. The mixture was stored for 15 h. The MgSO4 and carbon were filtered off, and the solvent was removed under vacuum. Crude 6-bromo-1,2-difluoronaphthalene (194.8 g) remained. The solid was dissolved in hexanes, and silica gel was added to the solution. The mixture was stirred for 10 minutes then was allowed to stand for 15 h. Additional silica gel was added to the mixture. A part of the product crystallized so hexane was added, and the mixture was stirred for 2.5 h. The silica gel was filtered off, and the solvent was removed under vacuum. A beige solid (192.9 g) remained. The solid was purified by heating under vacuum to 70° C. The final product was a light beige solid (174.9 g, 0.7 mol, 85%).

reactant | NH4Cl | 240.1 g | [NH4+].[Cl-]
reactant | 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene | 0.8 mol, 236.2 g | BrC=1C=C2C=CC(C(C2=CC1)(F)F)(F)F | C10H5BrF4
reactant | THF | 540 ml | C1CCOC1 | C4H8O
solvent | NH4OH | 1,080 ml | [NH4+].[OH-]
catalyst | zinc | 1.3 mol, 82.7 g | [Zn] | Zn
product | 6-bromo-1,2-difluoronaphthalene | BrC=1C=C2C=CC(=C(C2=CC1)F)F | C10H5BrF2
